US08420052B2
Compound 4-(benzo[d]thiazol-5-yl)-2-fluorophenol (W121) was prepared using the general procedure for Suzuki coupling reaction between 4-bromo-2-fluorophenol (57 mg, 0.3 mmol) and 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzo[d]thiazole (78 mg, 0.3 mmol), as a white solid (45 mg, 61%). 1H NMR (400 MHz, acetone-d6) δ 9.27 (s, 1 H), 8.85 (s, 1 H), 8.28 (d, J=1.6 Hz, 1 H), 8.15 (d, J=8.4 Hz, 1 H), 7.75 (dd, J=8.4, 1.6 Hz 1 H), 7.55 (dd, J=12.4, 2.4 Hz, 1 H), 7.45 (m, 1 H), 7.12 (t, 9.2 Hz, 1 H); MS (ESI) m/z 246 (M+H+).

reactant | 4-bromo-2-fluorophenol | 0.3 mmol, 57 mg | BrC1=CC(=C(C=C1)O)F | C6H4BrFO
reactant | 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzo[d]thiazole | 0.3 mmol, 78 mg | CC1(OB(OC1(C)C)C=1C=CC2=C(N=CS2)C1)C | C13H16BNO2S
product | 4-(benzo[d]thiazol-5-yl)-2-fluorophenol | S1C=NC2=C1C=CC(=C2)C2=CC(=C(C=C2)O)F | C13H8FNOS
